datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[O:38]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[H:19][O:38],7.397312
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:11])[H:10])([H:8])[H:9].[H:18]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6](=[C:7]([H:16])[H:17])[H:15])([H:11])[H:18])[H:10])([H:8])[H:9],-0.04184
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])[H:6].[C:13]([c:14]1[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]1[H:26])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[C:13]([c:14]1[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]1[H:26])([H:20])[H:21])([H:5])[H:6],41.045
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])=[C:5]([C:6]([H:14])([H:15])[H:16])[H:13])[H:9])([H:7])[H:8].[C:17](=[C:18]([C:19]([C:20]([H:25])([H:26])[H:27])[C:21]([H:28])([H:29])[H:30])[H:24])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[C:5]([C:6]([H:14])([H:15])[H:16])([H:13])[C:19]([C:18](=[C:17]([H:22])[H:23])[H:24])([C:20]([H:25])([H:26])[H:27])[C:21]([H:28])([H:29])[H:30])[H:9])([H:7])[H:8],32.4678
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6](=[C:7]([C:8]([C:9]([H:14])([H:15])[H:16])[H:13])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([H:4])[H:5])[H:3].[H:2][C:8]([C:7](=[C:6]([H:10])[H:11])[H:12])([C:9]([H:14])([H:15])[H:16])[H:13],112.048
[C:0]([C:1]([S:2][H:9])([C:3](=[S:4])[H:10])[H:8])([H:5])([H:6])[H:7].[C:11]([C:12]([S:13][H:23])[c:14]1[c:15]([H:24])[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]1[H:28])([H:20])([H:21])[H:22]>>[C:0]([C:1]([S:2][H:9])[C:3](=[S:4])[H:10])([H:5])([H:6])[H:7].[H:8][C:12]([C:11]([H:20])([H:21])[H:22])([S:13][H:23])[c:14]1[c:15]([H:24])[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]1[H:28],-0.8368
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6]#[C:7][H:15])[H:8].[C:16](=[C:17]([C:18]([C:19]([H:24])([H:25])[H:26])[H:23])[H:22])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([C:5]([H:12])([H:13])[H:14])[C:6]#[C:7][H:15])[C:18]([C:17](=[C:16]([H:20])[H:21])[H:22])([C:19]([H:24])([H:25])[H:26])[H:23])[H:8],44.3922
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12]1([H:19])([H:20])[C:13]([H:21])([H:22])[C:14]2([H:23])[C:15]([H:24])([H:25])[C:16]([H:26])([H:27])[C:17]1([H:28])[C:18]2([H:29])[H:30]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[H:29])[H:5].[C:12]1([H:19])([H:20])[C:13]([H:21])([H:22])[C:14]2([H:23])[C:15]([H:24])([H:25])[C:16]([H:26])([H:27])[C:17]1([H:28])[C:18]2[H:30],69.036
[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[C:18](=[S:19])[H:20]>>[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])[H:12])([H:8])([H:9])[H:10].[H:11][C:18](=[S:19])[H:20],48.9528
[O:0][N:1]=[O:2]>>[N:1]=[O:2].[O:0],299.9928
[C:0](=[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([H:9])[H:10])[H:8])[H:7])([H:5])[H:6]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:12])[H:13])([H:9])[H:10])([H:8])[H:11])[H:7])([H:5])[H:6],203.761
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[C:4]([H:8])([H:9])[H:10])[H:5].[C:11]([C:12](=[C:13]([H:17])[H:18])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:6])[H:7])([C:4]([H:8])([H:9])[H:10])[C:11]([C:12](=[C:13]([H:17])[H:18])[H:16])([H:14])[H:15])[H:5],59.4128
[H:4].[S:0]([S:1][H:3])[H:2]>>[S:0]([H:2])[H:4].[S:1][H:3],3.3472
[C:0]([C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([O:5][O:6][H:18])([H:16])[H:17])[O:7][O:8][H:19])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1](=[C:2]([C:3]([H:13])([H:14])[H:15])[C:4]([O:5][O:6][H:18])([H:16])[H:17])[H:12])([H:9])([H:10])[H:11].[O:7][O:8][H:19],63.5968
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10](=[C:11]([H:13])[H:14])[H:12]>>[C:0]([C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])([H:6])[C:10](=[C:11]([H:13])[H:14])[H:12])([H:4])[H:5],13.5143
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:15])([H:13])[H:14])([O:6][O:7][H:16])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]1([H:11])[C:2]([C:3]([O:4][O:5][H:15])([H:13])[H:14])([H:12])[O:6]1)([H:8])([H:9])[H:10].[O:7][H:16],40.9542472
[C:0](=[C:1]=[C:2]([C:3]([C:4]([H:10])([H:11])[H:12])([H:8])[H:9])[H:7])([H:5])[H:6]>>[C:0]([C:1]#[C:2][H:7])([H:5])([H:6])[H:10].[C:3](=[C:4]([H:11])[H:12])([H:8])[H:9],243.0904
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[S:8][H:9]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][S:8][H:9],42.2
